US08455488B2
Synthesis of 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methyl-4-(pyridin-4-ylmethyl)semicarbazide (Compound II-16)
According to the procedure described in the synthesis method of Compound II-15, 2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-6) 100 mg (0.42 mmol) was coupled with (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide IV-10) 100 mg (0.28 mmol) to obtain the title compound.

reactant | 2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetic acid | 0.42 mmol, 100 mg | CN(NC(NCC1=CC=NC=C1)=O)CC(=O)O | C10H14N4O3
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)C | C21H30N2O3
product | 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methyl-4-(pyridin-4-ylmethyl)semicarbazide | C(C)OC([C@H](C)N(C([C@H](C)NC(CN(NC(=O)NCC1=CC=NC=C1)C)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C31H42N6O5
